US04734418
6,9-Dimethyl-2-piperazino-5-oxo-5,6,7,8-tetrahydro(9H)pyrimido[4,5-e]diazepine
Dissolved in 10 ml of ethanol was 0.2 g (0.55 mmol) of 6,9-dimethyl-2-(4-benzylpiperazino)-5-oxo-5,6,7,8-tetrahydro(9H)pyrimido[4,5-e]diazepine, followed by an addition of 20 mg of 10% Pd-C. Under reflux, the reactant was hydrogenated at atmospheric pressure for 2 hours. After cooling the reaction mixture to room temperature, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography to obtain 0.1 g of the intended product (yield: 67%).

reactant | 6,9-dimethyl-2-(4-benzylpiperazino)-5-oxo-5,6,7,8-tetrahydro(9H)pyrimido[4,5-e]diazepine | 0.55 mmol, 0.2 g | CN1NCC(C2=C(C1=O)C=NC(=N2)N2CCN(CC2)CC2=CC=CC=C2)C | C20H26N6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd-C | 20 mg | [Pd] | Pd
product | 6,9-Dimethyl-2-piperazino-5-oxo-5,6,7,8-tetrahydro(9H)pyrimido[4,5-e]diazepine | 0.1 g, yield: 67% | CN1NCC(C2=C(C1=O)C=NC(=N2)N2CCNCC2)C | C13H20N6O
